US06841549B1
(1) N4-(6-Methoxy-3-pyridyl)-6-chloro-4,5-pyrimidine diamine
A mixture of 25 g of 5-(6-chloro-9H-9-purinyl)-2-pyridyl methyl ether, 250 mL conc. ammonia water and 500 mL dimethoxyethane was stirred at 70° C. for 4 hours, and the resulting suspension was filtered, to give 21.2 g of the title compound as white crystals (91% y.). (4) 8-Bromo-9-(6-methoxy-3-pyridyl)-9H-6-purineamine

reactant | 5-(6-chloro-9H-9-purinyl)-2-pyridyl methyl ether | 25 g | COC1=NC=C(C=C1)N1C2=NC=NC(=C2N=C1)Cl | C11H8ClN5O
reactant | ammonia water | 250 mL | O.N
solvent | dimethoxyethane | 500 mL | C(OC)COC | C4H10O2
product | N4-(6-Methoxy-3-pyridyl)-6-chloro-4,5-pyrimidine diamine | 21.2 g, 91% | COC1=CC=C(C=N1)NC1=NC=NC(=C1N)Cl | C10H10ClN5O
